US09058935B2
A solution of triphenylpyrylium tetrafluoroborate, [TPP][BF4], (100 mg, 0.252 mmol), in acetonitrile (2 ml) and a solution of potassium methyltricyanoborate (36 mg, 0.252 mmol) in acetonitril (2 ml) are combined and mixed. The salt potassium tetrafluoroborate is filtered at 0° C. and all volatile components are removed under reduced pressure resulting in the solid compound 2,4,6-triphenylpyrylium methyltricyanoborate.

reactant | triphenylpyrylium tetrafluoroborate | F[B-](F)(F)F.C1(=CC=CC=C1)C1=C(C(=[O+]C=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium methyltricyanoborate | 0.252 mmol, 36 mg | C[B-](C#N)(C#N)C#N.[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitril | 2 ml | C(C)#N | C2H3N
product | 2,4,6-triphenylpyrylium methyltricyanoborate | C[B-](C#N)(C#N)C#N.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H17O.C4H3BN3/c1-4-10-18(11-5-1)21-16-22(19-12-6-2-7-13-19)24-23(17-21)20-14-8-3-9-15-20;1-5(2-6,3-7)4-8/h1-17H;1H3/q+1;-1
